US07253286B2
4-{6-Cyano-4-[4-(3-thiazol-2-ylureido)phenoxy]quinolin-7-yloxymethyl}piperidine-1-carboxylic acid tert-butyl ester
4-(4-(4-Aminophenoxy)-6-cyanoquinolin-7-yloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester (225 mg) was heated in dimethylsulfoxide together with thiazol-2-yl-carbamic acid phenyl ester at 80° C. in the same manner as Example 713 to obtain the title compound (240 mg) as a solid.

reactant | 4-(4-(4-Aminophenoxy)-6-cyanoquinolin-7-yloxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | 225 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)N)C#N | C27H30N4O4
reactant | thiazol-2-yl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1SC=CN1)=O | C10H8N2O2S
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4-{6-Cyano-4-[4-(3-thiazol-2-ylureido)phenoxy]quinolin-7-yloxymethyl}piperidine-1-carboxylic acid tert-butyl ester | 240 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC(=O)NC=1SC=CN1)C#N | C31H32N6O5S
